US04065472
A mixture of 2.54 g. (11.5 mmoles) of 5-bromomethylthiophene-2-carboxylic acid and 3.02 g. of triphenylphosphine in 50 ml. of acetonitrile was heated at reflux for 1.5 hours then was cooled. The resultant precipitate was collected by filtration and was recrystallized from ethanol:hexane to provide the (2-carboxythiophen-5-yl-methyl)triphenylphosphonium bromide weighing 3.16 g. and melting at 273°.

reactant | 5-bromomethylthiophene-2-carboxylic acid | 11.5 mmoles | BrCC1=CC=C(S1)C(=O)O | C6H5BrO2S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | C(C)#N | C2H3N
product | (2-carboxythiophen-5-yl-methyl)triphenylphosphonium bromide | 3.16 g | [Br-].C(=O)(O)C=1SC(=CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H19O2PS.BrH/c25-24(26)23-17-16-22(28-23)18-27(19-10-4-1-5-11-19,20-12-6-2-7-13-20)21-14-8-3-9-15-21;/h1-17H,18H2;1H
